US04085118
5-[5-(3,4-Dichlorophenyl)-2-furanyl]dihydro-2(3H)-furanone
A mixture of 3.0 g (0.009 mole) of 4-[5-(3,4-dichlorophenyl)-2-furanyl]-4-hydroxybutanoic acid and 50 ml of 10% hydrochloric acid was heated at 55° for 21/2 hrs and then cooled. The resulting solid was filtered, dissolved in ethyl acetate and dried over MgSO4. The MgSO4 was removed by filtration and the filtrate was diluted with hexane. The resulting solid was filtered and dried in the vacuum pistol at room temperature to yield 1.2 g (45%), m.p. 89°-90°.

reactant | 4-[5-(3,4-dichlorophenyl)-2-furanyl]-4-hydroxybutanoic acid | 0.009 mole, 3.0 g | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)C(CCC(=O)O)O | C14H12Cl2O4
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 5-[5-(3,4-Dichlorophenyl)-2-furanyl]dihydro-2(3H)-furanone | ClC=1C=C(C=CC1Cl)C1=CC=C(O1)C1CCC(O1)=O | C14H10Cl2O3
